US07923450B2
a) 2-[1-Dimethylamino-methylidene]-6-pyridin-2-yl-cyclohexanone
2-Pyridin-2-yl-cyclohexanone (175 mg, 1.0 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (226 mg) as a yellow solid which was used directly in the next step. MS ISP (m/e): 231.4 (100) [(M+H)+].

reactant | 2-Pyridin-2-yl-cyclohexanone | 1.0 mmol, 175 mg | N1=C(C=CC=C1)C1C(CCCC1)=O | C11H13NO
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-pyridin-2-yl-cyclohexanone | 226 mg | CN(C=C1C(C(CCC1)C1=NC=CC=C1)=O)C | C14H18N2O
